US07105567B2
By the reaction and treatment in the same manner as in Example 62 using (4-isopropylphenyl)[(2-methoxy-5-pyridyl)methyl]amine (0.50 g) and 2,6-diisopropylphenyl isocyanate (0.63 mL) as starting materials, N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-[(2-methoxy-5-pyridyl)methyl]urea (0.57 g) was obtained.

reactant | (4-isopropylphenyl)[(2-methoxy-5-pyridyl)methyl]amine | 0.50 g | C(C)(C)C1=CC=C(C=C1)NCC=1C=CC(=NC1)OC | C16H20N2O
reactant | 2,6-diisopropylphenyl isocyanate | 0.63 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-[(2-methoxy-5-pyridyl)methyl]urea | 0.57 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC=1C=CC(=NC1)OC)C1=CC=C(C=C1)C(C)C)=O | C29H37N3O2
